US07872009B2
Step 1: Methyl 1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate
Through a solution of methyl 5-bromo-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate (300 mg, 1 mmol) and Pd/C (300 mg) in methanol (30 mL) was bubbled H2 through a balloon for 48 h. The mixture was filtered through Celite® and concentrated to afford the title compound. MS m/z: 222 (M+1).

reactant | methyl 5-bromo-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 1 mmol, 300 mg | BrC1=CC(=CN(C1=O)C1CCCC1)C(=O)OC | C12H14BrNO3
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | Methyl 1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate | C1(CCCC1)N1C=C(C=CC1=O)C(=O)OC | C12H15NO3
